.SubCkt GJ821BR71H105KA12 _net1 _net2
.param K01=9.4291e-07
.param M01=5.0000e+08
.param L02=1.7502e-10
.param M03=4.1236e-03
.param K04=2.4078e-04
.param M04=8.7718e+00
.param K05=2.4638e-04
.param M05=1.2974e+00
.param K06=1.6533e-04
.param M06=2.4342e-01
.param K07=1.5059e-04
.param M07=2.8635e-02
.param K08=1.4421e-04
.param M08=4.3009e-03
.param L09=2.4864e-11
.param M09=5.1756e-02
.param L10=2.2406e-10
.param M10=3.7593e-02
.param K11=3.0522e-06
.param L11=5.5058e-11
.param M11=2.0606e-02
.param K12=1.9617e-06
.param L12=4.2868e-11
.param M12=1.9014e-02
.param K13=1.8054e-11
.param L13=5.0221e-11
.param M13=5.1989e+00
.param K14=5.9559e-12
.param L14=5.6246e-11
.param M14=3.8434e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 
